data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-C=O_2-c2ccccc2_3-CCC_4-C(=O)N(C)C_5-Br","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1I"],"products_smiles": ["c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1c2c(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c2(Br)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1[Cu](I)c2c(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c2(Br)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c(Br)c1c2c(C=O)c(c2ccccc2)c(CCC)c(C(=O)N(C)C)c2(Br)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-238_1-c2ccoc2_2-CC_3-c2ccc(C)cc2_4-C(C)C","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccoc2C(=O)O","c2ccc(C)cc2N=C=NC(C)C","CCO","CN(C)c1ccncc1"],"products_smiles": ["CCOC(=O)c2ccoc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccoc2C(=O)OC(=[NH+]c2ccc(C)cc2)NC(C)C","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccoc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OCC)c2ccoc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCOC(=O)c2ccoc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
